US05639778
Step A: [4-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-phenyl]-acetic acid (19, Chart B).
Phthalic acid anhydride (15.1 g, 102 mmol) and 4-amino phenyl acetic acid (15.2 g, 102 mmol) were dissolved in acetic acid and heated at reflux for 1 hour. Upon cooling on an ice bath, the product crystallized. The solid was filtered off, washed with water, and dried under vacuum overnight. The yield of the title compound was 24.1 g (86%) as an off white solid.

reactant | Phthalic acid anhydride | 102 mmol, 15.1 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 4-amino phenyl acetic acid | 102 mmol, 15.2 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [4-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-phenyl]-acetic acid | O=C1N(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)CC(=O)O | C16H11NO4
